US04906666
S-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-propyl]-2-mercaptoethyl thiocyanate
1.0 g. (2.8 mMole) S-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propyl]-2-mercaptoethyl bromide and 5.0 g. potassium thiocyanate are heated to reflux for 2 hours in 25 ml. acetone. Subsequently, the precipitate is filtered off with suction, the solution is evaporated and the residue is stirred with diethyl ether. After evaporating the diethyl ether, there is obtained 0.7 g. (71% of theory) of the title compound in the form of an oil.

reactant | S-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propyl]-2-mercaptoethyl bromide | 2.8 mMole | C(C)(=O)C1=C(C(=C(OCCCSCCBr)C=C1)CCC)O | C16H23BrO3S
reactant | potassium thiocyanate | [S-]C#N.[K+]
solvent | acetone | CC(=O)C | C3H6O
product | S-[3-(4-Acetyl-3-hydroxy-2-propylphenoxy)-propyl]-2-mercaptoethyl thiocyanate | C(C)(=O)C1=C(C(=C(OCCCSCCSC#N)C=C1)CCC)O | C17H23NO3S2
